US05250679
A suspension of 2-allyl-8-hydroxy-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one (1.0 g, 0.0049 mol), 8-azido-1-(toluenesulfonyloxy)octane (1.50 g, 0.0049 mol) and K2CO3 in N,N-dimethylformamide (20 mL) was stirred vigorously under argon, and heated at 65° C. for 18 hours. The solution was then partitioned between ethyl acetate and brine, and the combined organic layers were washed with water, dried (K2CO3), filtered, and concentrated in vacuo. The residue was purified by chromatography over silica gel to yield 920 mg (51%) of 2-allyl-8-(8-azidooctyloxy)-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one as a colorless oil; 1H NMR(CDCl3) d7.47(s, 1H), 6.95(d, J=6 Hz, 1H), 6.84(dd, J=3, 6 Hz, 1H), 5.89(m, 1H), 5.22(m, complex, 2H), 4.20(d, J=6 Hz, 2H), 3.95 (t, J=6 Hz, 2H), 3.22(t, J=6 Hz, 2H), 3.18(t, J=6 Hz, 2H), 2.66(t, J=6 Hz, 2H), 1.90(t, J=6 Hz, 2H), 1.79(t, J=6 Hz, 2H), 1.60(m, 4H), 1.35(m, 6H).

reactant | 2-allyl-8-hydroxy-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 0.0049 mol, 1.0 g | C(C=C)N1C(C2=C(CCC1)C=CC(=C2)O)=O | C13H15NO2
reactant | 8-azido-1-(toluenesulfonyloxy)octane | 0.0049 mol, 1.50 g | N(=[N+]=[N-])CCCCCCCCOS(=O)(=O)C=1C(=CC=CC1)C | C15H23N3O3S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-allyl-8-(8-azidooctyloxy)-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 920 mg, 51% | C(C=C)N1C(C2=C(CCC1)C=CC(=C2)OCCCCCCCCN=[N+]=[N-])=O | C21H30N4O2
